US06313126B1
4-(6-methoxy-4-methylquinolin-8-yl)piperazine
A mixture of 1-benzyl-4-(6-methoxy-4-methylquinolin-8-yl)piperazine (2.0 g, 5.76 mmol), methylene chloride (50 mL) and vinyl chloroformate (0.8 mL, 8.64 mmol) were refluxed for 4 hours. The mixture was concentrated, then dissolved in a 1:1 mixture of dioxane/conc. HCl and stirred at ambient temperature for 18 hours. The reaction mixture was made basic with 2.5 N aqueous NaOH and extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL), then were dried over anhydrous sodium sulfate, filtered, and concentrated to give 0.6 g (47%) of the title compound: mp 208-209° C.

reactant | 1-benzyl-4-(6-methoxy-4-methylquinolin-8-yl)piperazine | 5.76 mmol, 2.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=C2C(=CC=NC12)C)OC | C22H25N3O
reactant | vinyl chloroformate | 8.64 mmol, 0.8 mL | ClC(=O)OC=C | C3H3ClO2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-methoxy-4-methylquinolin-8-yl)piperazine | 0.6 g, 47% | COC=1C=C2C(=CC=NC2=C(C1)N1CCNCC1)C | C15H19N3O
